### PR TITLE
Divergence of the sum of the reciprocal of primes

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change
The divergence of the sum of the reciprocal of primes theorem, extracted from https://github.com/math-comp/analysis/pull/1690 because it has been ready and sitting there for too long. We can add it to [the famous list of formalized theorems](https://www.cs.ru.nl/~freek/100/).

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: classical/unstable.v [hunk 1]
```diff
@@ -97,6 +138,12 @@ Qed.
 Definition monotonous d (T : porderType d) (pT : predType T) (A : pT) (f : T -> T) :=
   {in A &, {mono f : x y / (x <= y)%O}} \/ {in A &, {mono f : x y /~ (x <= y)%O}}.
 
+Lemma mono_ext f : {mono f : m n / (m <= n)%N} -> forall n, (n <= f n)%N.
```
Comment (affeldt-aist) [inline classical/unstable.v]: There is maybe a better name for `mono_ext`.
The identifier does not show it is about natural numbers
or that the conclusion is `leq`; what does `ext` mean?
What about `mono_leq`?

File: theories/showcase/pnt.v [hunk 2]
```diff
@@ -0,0 +1,456 @@
...
+
+End prime_seq.
+
+Section DivergenceSumInversePrimeNumbers.
+
+Let P (k N : nat) :=
+  [set n : 'I_N.+1 |all (fun p => p < prime_seq k) (primes n)]%SET.
+Let G (k N : nat) := ~: P k N.
+
+Fact cardPcardG k N : #|G k N| + #|P k N| = N.+1.
```
Comment (affeldt-aist) [inline theories/showcase/pnt.v]: `Fact cardPcardG` -> `Local Lemma cardPcardG` or `Let cardPcardG`?
Since it does not appear in the changelog, I guess this is the intent.

File: theories/showcase/pnt.v [hunk 3]
```diff
@@ -0,0 +1,456 @@
...
+Proof.
+rewrite addnC.
+have : (P k N) :|: (G k N) = [set : 'I_N.+1]%SET by rewrite finset.setUCr.
+rewrite -cardsUI finset.setICr cards0.
+by rewrite -[X in _ + _ = X]card_ord addn0 -cardsT => ->.
+Qed.
+
+Fact cardG (R : realType) (k N : nat) :
```
Comment (affeldt-aist) [inline theories/showcase/pnt.v]: `Fact cardG` -> `Local Lemma cardG` or `Let cardG`?
(same as just above)

File: theories/showcase/pnt.v [hunk 4]
```diff
@@ -0,0 +1,456 @@
...
+  by rewrite ltnSn -ltnS ltn_subrL prime_gt0 // -mem_prime_seq mem_range.
+rewrite inE /in_mem /= => /mapP /= [] x3.
+rewrite mem_iota subnK => [/andP [] x3b1 x3b2 /(congr1 val)|]; last first.
+  by rewrite -subn_eq0; apply/eqP /Eigtpi.
+have x3b3: x3 < N.+1 by apply: (leq_ltn_trans _ (ltn_ord x1)).
+rewrite val_insubd x3b3 /= => x2eqx3. move: x3b2.
+by rewrite ltnS -x2eqx3.
+Qed.
+
+Fact cardP (k : nat) :
```
Comment (affeldt-aist) [inline theories/showcase/pnt.v]: `Fact cardP` -> `Local Lemma cardP` or `Let cardP`?
Since this one does not depend on any `R : realType`
(it was wrongly flagged as such in the previous commit),
it could maybe be in a different section, or maybe
appear before the other intermediate lemmas, to highlight its different nature.

File: theories/showcase/pnt.v [hunk 5]
```diff
@@ -0,0 +1,456 @@
...
+  rewrite !inE => /imsetP [] x xinPkN -> /=.
+  apply: (contra_not_neq (@congr1 _ _ val _ _)) => /=.
+  apply/eqP; rewrite -lt0n; apply: prodn_gt0 => i.
+  by rewrite expn_gt0 prime_gt0//= -mem_prime_seq inE.
+apply: (leq_trans imfleqAB).
+rewrite cardsX cardsE card_tuple card_bool cardsC1 card_ord.
+by rewrite -expnD addnA addnn.
+Qed.
+
+Theorem DivergenceSumInversePrimeNumbers (R : realType) :
```
Comment (affeldt-aist) [inline theories/showcase/pnt.v]: `DivergenceSumInversePrimeNumbers` -> `dvg_sum_inv_prime_seq`?
because I think that we favor small letters and underscores
instead of caps and identifiers made up of other identifiers
appearing in the statement.

File: classical/unstable.v (hunk 1 above)
Comment (Tragicus) [reply classical/unstable.v]: Oh, my bad, these functions are called "inflationary", not something like "extensive". I feel like `mono_leq` is too general. Maybe something like `mono_leq_infl`?

File: theories/showcase/pnt.v (hunk 4 above)
Comment (Tragicus) [reply theories/showcase/pnt.v]: I do not really see the point in putting it in a different section, it is the natural course of the proof of the theorem and it just so happens to not require a hypothesis about real numbers.

Comment (affeldt-aist) [reply theories/showcase/pnt.v]: Moreover if this turns into a `Let` or a `Local Lemma`, that indeed justifies to keep it in the same section.
